US07026316B2
Step D. N-{4-[(1S)-1-amino-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl]cyclohexyl}-4-iodo-benzenesulfonamide
To a solution of 50 mg (0.139 mmol) of tert-butyl trans-(1S)-1-(4-aminocyclohexyl)-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl-carbamate in 1 mL of methylene chloride was added 53 mg (0.175 mmol) of pipsyl chloride, and 0.022 mL (0.27 mmol) of pyridine, and the reaction was stirred at ambient temperature for 16 h. The solvent was removed in vacuo and the product purified by preparative thin layer chromatography (TLC) (silica gel, 5:95 methanol:methylene chloride) afforded 51 mg of the title compound as is Boc carbamate. Deprotection was effected by treatment with 2 mL of a 1:1 mixture of trifluoroacetic acid:methylene chloride at ambient temperature for 2 h, followed by concentration in vacuo and removal of the excess trifluoroacetic acid by azeotropic distillation with methylene chloride. Purification by preparative TLC (silica gel, 9:1:90 methanol:concentrated ammonium hydroxide:methylene chloride) afforded 37 mg of the title compound. 1H NMR (400 MHz, CD3OD) δ 7.94 (d, 2H, J=8 Hz), 7.58 (d, 2H, J=8 Hz), 4.64–4.62 (m, 0.45H), 4.58–4.52 (m, 1H), 4.47–4.43 (m, 0.55H), 3.91–3.64 (m, 2H), 3.41 (d, 0.45H, J=7 Hz), 3.37 (d, 0.55H, J=7 Hz), 3.07 (t, 1.1H, J=6 Hz), 3.02 (t, 0.9H, J=6 Hz), 3.00–2.92 (m, 1H), 1.84–1.72 (m, 3H), 1.59–1.52 (m, 1H), 1.48–1.38 (m, 1H), 1.23–1.10 (m, 3H), 1.09–0.97 (m, 1H).

reactant | tert-butyl trans-(1S)-1-(4-aminocyclohexyl)-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl-carbamate | 0.139 mmol, 50 mg | N[C@@H]1CC[C@H](CC1)[C@@H](C(N1CSCC1)=O)NC(OC(C)(C)C)=O | C16H29N3O3S
reactant | pipsyl chloride | 0.175 mmol, 53 mg | C1=CC(=CC=C1S(=O)(=O)Cl)I | C6H4ClIO2S
reactant | pyridine | 0.27 mmol, 0.022 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[(1S)-1-amino-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl]cyclohexyl}-4-iodo-benzenesulfonamide | 51 mg | N[C@H](C(N1CSCC1)=O)C1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)I | C17H24IN3O3S2
